US08859553B2
Step 5. 1-(3,4-Dinitrobenzyl)-4-methylpiperazine
To a cooled solution (−5° C.) of (3,4-dinitrophenyl)-(4-methylpiperazin-1-yl)methanone (5.88 g, 20 mmol) in THF, was added powdered NaBH4 (1.89 g, 50 mmol), followed by the dropwise addition of BF3.OEt2 (6.4 mL, 50 mmol), while keeping the temperature below 5° C. The mixture was allowed to come to room temperature over 2 hrs, and then stirred for a further 3 hrs at room temperature. MeOH was then added cautiously to the mixture, the stirring was continued for 10 minutes and then the mixture was concentrated. The residue was partitioned between EtOAc (150 mL) and saturated aqueous NaHCO3 (150 mL). The organic layer was washed with water (100 mL), brine (100 mL) and then dried by Na2SO4, filtered and concentrated. The residue was purified by silica gel chromatography (eluent: 2% MeOH in CH2Cl2) to give a yellow solid (4.5 g, 80.3%). 1H NMR (300 MHz, CDCl3) δ: 7.90-7.92 (1H, d, J=6.0 Hz), 7.90 (1H, s), 7.69-7.71 (1H, d, J=6.0 Hz), 3.73 (2H, s), 3.07-3.10 (2H, m), 2.94-2.99 (2H, m), 2.76-2.81 (2H, m), 2.67 (3H, s), 2.53-2.56 (2H, m).

reactant | (3,4-dinitrophenyl)-(4-methylpiperazin-1-yl)methanone | 20 mmol, 5.88 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])C(=O)N1CCN(CC1)C | C12H14N4O5
reactant | NaBH4 | 50 mmol, 1.89 g | [BH4-].[Na+]
reactant | BF3.OEt2 | 50 mmol, 6.4 mL | B(F)(F)F.CCOCC
reactant | MeOH | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 1-(3,4-Dinitrobenzyl)-4-methylpiperazine | 4.5 g, 80.3% | [N+](=O)([O-])C=1C=C(CN2CCN(CC2)C)C=CC1[N+](=O)[O-] | C12H16N4O4
